US04093613
A suspension of 35 parts of 4,4'-diacetamino-azobenzene in 315 parts by volume of methanol and 315 parts by volume of 2 N hydrochloric acid is heated to 74°, stirred for 90 minutes at this temperature and cooled to 18°, and the product is filtered off. The 4,4'-diaminoazobenzene dihydrochloride thus obtained is pressed out well and is suspended, without being washed, in 1,000 parts of water. The new suspension is stirred for 15 minutes at room temperature, about 300 parts by volume of 2.5 N sodium hydroxide solution are added dropwise (pH = 7) and the mixture is filtered. The residue is washed free from salt and is dried in vacuo at 60°. 24.6 parts (98.5% of theory) of an ochre-yellow powder are obtained. Melting point: 236°-238°, with decomposition.

reactant | 4,4'-diacetamino-azobenzene | N(C(=O)C)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)NC(=O)C | C16H16N4O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | CO | CH4O
product | 4,4'-diaminoazobenzene dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)N | InChI=1S/C12H12N4.2ClH/c13-9-1-5-11(6-2-9)15-16-12-7-3-10(14)4-8-12;;/h1-8H,13-14H2;2*1H
